US06245804B1
4-(4-Cyanophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid
From 4-(4-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester, zinc cyanide and tetrakis-triphenylphosphine-palladium in dimethylformamide at 140° C. After saponification, the title acid is obtained as a foam.

reactant | 4-(4-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | C(C)OC(C(CC(C)(C)C1=CC=C(C=C1)Br)(C(F)(F)F)O)=O | C15H18BrF3O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | [C-]#N.[Zn+2].[C-]#N
product | 4-(4-Cyanophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid | C(#N)C1=CC=C(C=C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C | C14H14F3NO3
